US05143929
2-[(3,5-Bis[1,1 -dimethylethyl]-4-hydroxyphenyl)amino]-benzoic acid methyl ester (1.1 g, 3.1 mmols) is dissolved in 100 mL of diethyl, ether and added to a suspension of lithium aluminum hydride (0.46 g, 12.4 mmols) in 20 mL of diethyl ether at room temperature under an argon atmosphere. After 30 minutes the reaction is quenched with 0.46 mL of water, followed by 0.46 mL of 15% (w/v) aqueous sodium hydroxide and then 1.38 mL of water. The solids are removed by filtration of the reaction mixture into a flask containing sodium dithionite (15 g) and 300 mL of 50% aqueous tetrahydrofuran. The filtrate is concentrated in vacuo and the organics are extracted into two 100 mL portions of methylene chloride. The methylene chloride extracts are washed with 100 mL of brine, dried over magnesium sulfate, and filtered. The filtrate is added to a suspension of pyridinium chlorochromate (2.0 g, 9.3 mmols) and alumina (7.0 g) in 100 mL of methylene chloride. The reaction is stirred at room temperature for 12 hours, then filtered through a silica gel pad which is washed with 100 mL of diethyl ether. The filtrate is concentrated in vacuo and the residue is taken up in 100 mL of tetrahydrofuran. Sodium dithionite (15 g) is dissolved in 100 mL of water and added to the tetrahydrofuran solution. After 15 minutes the mixture is concentrated in vacuo and then extracted with three 50 mL portions of diethyl ether. The ether extract is washed with 50 mL of brine and dried over magnesium sulfate. Evaporation gives 1.0 g (100%) of 2-[(3,5-bis[1,1-dimethylethyl]-4-hydroxyphenyl)amino]benzaldehyde, mp 105°-107° C. An analytical sample is obtained by recrystallization from water/methanol.

reactant | 2-[(3,5-Bis[1,1 -dimethylethyl]-4-hydroxyphenyl)amino]-benzoic acid methyl ester | 3.1 mmols, 1.1 g | COC(C1=C(C=CC=C1)NC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C22H29NO3
reactant | lithium aluminum hydride | 12.4 mmols, 0.46 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | pyridinium chlorochromate | 9.3 mmols, 2.0 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | 2-[(3,5-bis[1,1-dimethylethyl]-4-hydroxyphenyl)amino]benzaldehyde | 1.0 g, 100% | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)NC1=C(C=O)C=CC=C1 | C21H27NO2
